US07968573B2
A mixture of 0.45 g of 2-acetylamino-3-methyl-5-nitrobenzoic acid, 0.45 g of potassium hydroxide, 5 ml of methanol and 20 ml of water was heated to reflux at 80° C. for 2 hours. The reaction mixture was allowed to cool to room temperature, and water was poured into the mixture. The mixture was adjusted to pH 3 by an addition of 2N hydrochloric acid. A deposited precipitate was collected by filtration to obtain 0.28 g of 2-amino-3-methyl-5-nitrobenzoic acid of the formula:

reactant | 2-acetylamino-3-methyl-5-nitrobenzoic acid | 0.45 g | C(C)(=O)NC1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C10H10N2O5
reactant | potassium hydroxide | 0.45 g | [OH-].[K+]
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-amino-3-methyl-5-nitrobenzoic acid | 0.28 g | NC1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C8H8N2O4
